US08957215B2
(b) tert-Butyl [5-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)pyridin-2-yl]methylcarbamate
n-BuLi (27 mL, 2.5 M) was slowly added to a stirred solution of tert-butyl (5-bromopyridin-2-yl)methylcarbamate (17.7 g, 61.6 mmol) in THF (280 mL) at −78° C. under an argon atmosphere. After 5 min at −78° C., triisopropylborate (28.5 mL, 123 mmol) was added and the mixture was stirred at −78° C. for 1 h. Neopentyl glycol (6.4 g, 61.4 mmol) was added and the reaction mixture was allowed to reach rt and was stirred for 2.5 d. The reaction was quenched with water (300 mL). The phases were separated and the aqueous phase was extracted with DCM. The organic layer was concentrated and the residue was purified by two successive flash chromatographies (Heptane/EtOAc 9:1→1:4 and DCM/MeOH 24:1 respectively) to give the product (2.23 g) as a white solid. 1H NMR 8.57 (dd, 1 H) 7.94 (dd, 1 H) 7.65 (dd, 1 H) 3.76 (s, 4 H) 3.30 (s, 3 H) 1.47 (s, 9 H) 0.96 (s, 6 H).

reactant | n-BuLi | 2.5 M, 27 mL | [Li]CCCC
reactant | tert-butyl (5-bromopyridin-2-yl)methylcarbamate | 61.6 mmol, 17.7 g | BrC=1C=CC(=NC1)CNC(OC(C)(C)C)=O | C11H15BrN2O2
reactant | triisopropylborate | 123 mmol, 28.5 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | Neopentyl glycol | 61.4 mmol, 6.4 g | OCC(C)(CO)C | C5H12O2
solvent | THF | 280 mL | C1CCOC1 | C4H8O
product | tert-Butyl [5-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)pyridin-2-yl]methylcarbamate | 2.23 g | CC1(COB(OC1)C=1C=CC(=NC1)CNC(OC(C)(C)C)=O)C | C16H25BN2O4
